US09216999B2
rac-1-[(3R,4R)-1-Benzyl-4-methylpiperidin-3-yl]-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one
rac-1-(4-{[(3R,4R)-1-Benzyl-4-methylpiperidin-3-yl]amino}-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)ethanone (20 mg, 0.041 mmol) in N,N-dimethylformamide dimethyl acetal (1 mL) was stirred at 170° C. for 6 hours under microwave irradiation. The reaction mixture was allowed to cool to room temperature and concentrated under reduced pressure, and the resulting residue was dissolved in tetrahydrofuran (1 mL) and stirred with 1 M hydrochloric acid (1 mL) at 80° C. for 1 hour. The reaction mixture was allowed to cool to room temperature and, after addition of saturated aqueous sodium hydrogen carbonate, extracted with chloroform, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate/methanol=1/1/0→0/5/1 (v/v/v)) to give the title compound as a yellow oil (6.1 mg, yield 30%).

reactant | rac-1-(4-{[(3R,4R)-1-Benzyl-4-methylpiperidin-3-yl]amino}-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)ethanone | 0.041 mmol, 20 mg | C(C1=CC=CC=C1)N1C[C@@H]([C@@H](CC1)C)NC1=C2C(=NC=C1C(C)=O)N(C=C2)COCC[Si](C)(C)C | C28H40N4O2Si
reactant | N,N-dimethylformamide dimethyl acetal | 1 mL | COC(N(C)C)OC | C5H13NO2
product | rac-1-[(3R,4R)-1-Benzyl-4-methylpiperidin-3-yl]-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one | 6.1 mg, yield 30% | C(C1=CC=CC=C1)N1C[C@@H]([C@@H](CC1)C)N1C=CC(C2=CN=C3C(=C12)C=CN3COCC[Si](C)(C)C)=O | C29H38N4O2Si
